US07045539B2
2-(4-Hydroxy-phenyl)-6-hydroxy-benzothiazole
6-Methoxy-2-(4-methoxy-phenyl)-benzothiazole (134 mg, 0.49 mmol) and pyridine hydrochloride (1.34 g, 11.6 mmol) were heated to 200° C. under nitrogen for 40 min, and then cooled to room temp. Reaction was poured cautiously into aqueous hydrochloric acid (1M) and extracted with ethyl acetate. Ethyl acetate extracts were washed with: 1) hydrochloric acid (1.0M), 2) saturated brine and concentrated in vacuo. Residue was washed with ether/hexane (1:4), dried under vacuum yielding the title compound (119 mg, 100%) as a yellow solid. MH+=244 The starting 6-Methoxy-2-(4-methoxy-phenyl)-benzothiazole was prepared as follows:

reactant | 6-Methoxy-2-(4-methoxy-phenyl)-benzothiazole | 0.49 mmol, 134 mg | COC1=CC2=C(N=C(S2)C2=CC=C(C=C2)OC)C=C1 | C15H13NO2S
reactant | pyridine hydrochloride | 11.6 mmol, 1.34 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | 1M | Cl | ClH
product | 2-(4-Hydroxy-phenyl)-6-hydroxy-benzothiazole | 119 mg, 100% | OC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)O | C13H9NO2S
